US07696200B2
Borane tetrahydrofuran complex solution (1 M in tetrahydrofuran, 13 mL, 13 mmol) was added over 5 min to a solution of 4-bromo-2-nitrobenzoic acid (2.00 g, 8.13 mmol) at room temperature, then after 72 h the reaction mixture was carefully poured upon sat. aq. sodium hydrogencarbonate solution and extracted with ethyl acetate. The organic layer was dried (MgSO4) and evaporated to produce (4-bromo-2-nitro-phenyl)-methanol (1.85 g, 96%). White solid, 1H-NMR (300 MHz, CDCl3): 8.25 (d, J=1.8, 1H), 7.80 (dd, J=8.1, 1.8, 1H), 7.67 (d, J=8.1, 1H), 4.96 (d, J=6.3, 2H), 2.37 (t, J=6.3, 1H).

reactant | 4-bromo-2-nitrobenzoic acid | 8.13 mmol, 2.00 g | BrC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-bromo-2-nitro-phenyl)-methanol | 1.85 g, 96% | BrC1=CC(=C(C=C1)CO)[N+](=O)[O-] | C7H6BrNO3
